US08236826B2
Production of 2-[(4-{5-[(3,4-dichlorobenzyl)-ethylamino]pyridin-2-yloxy}phenyl)methylamino]-1-(4-piperonylpiperazin-1-yl)ethanone
2-({4-[5-(3,4-dichlorobenzylamino)pyridin-2-yloxy]phenyl}methylamino)-1-(4-piperonylpiperazin-1-yl)ethanone (1.59 g, 2.5 mmol) was dissolved in dichloroethane (80 mL). To this solution were added acetoaldehyde (1.40 mL, 25.0 mmol) and sodium triacetyloxy borohydride (1.59 mL, 7.5 mmol) under ice cooling. To the resulting solution was added dropwise acetic acid (0.43 mL, 7.5 mmol), and this solution was stirred at room temperature for 16 hours. The resulting reaction solution was washed with a saturated sodium bicarbonate solution and brine. The organic layer was dried over anhydrous magnesium sulfate, and evaporated. The residue was then purified by silica gel column chromatography (chloroform:methanol=50:1). The obtained solid was recrystallized from ethanol, to thereby yield 0.65 g of the title compound.

reactant | 2-({4-[5-(3,4-dichlorobenzylamino)pyridin-2-yloxy]phenyl}methylamino)-1-(4-piperonylpiperazin-1-yl)ethanone | 2.5 mmol, 1.59 g | ClC=1C=C(CNC=2C=CC(=NC2)OC2=CC=C(C=C2)CNCC(=O)N2CCN(CC2)CC2=CC=3OCOC3C=C2)C=CC1Cl | C33H33Cl2N5O4
reactant | acetoaldehyde | 25.0 mmol, 1.40 mL | C(C)=O | C2H4O
reactant | sodium triacetyloxy borohydride | 7.5 mmol, 1.59 mL | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 7.5 mmol, 0.43 mL | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 80 mL | ClC(C)Cl | C2H4Cl2
product | 2-[(4-{5-[(3,4-dichlorobenzyl)-ethylamino]pyridin-2-yloxy}phenyl)methylamino]-1-(4-piperonylpiperazin-1-yl)ethanone | ClC=1C=C(CN(C=2C=CC(=NC2)OC2=CC=C(C=C2)CNCC(=O)N2CCN(CC2)CC2=CC=3OCOC3C=C2)CC)C=CC1Cl | C35H37Cl2N5O4
